US07105507B2
1,1-Dimethylethyl 2-Oxa-7-azaspiro[3.5]nonane-7-carboxylate
A solution of 1,1-dimethylethyl 4-hydroxymethyl-4-methanesulfonyloxymethyl-1-piperidinecarboxylate (Description 68, 3 g, 9.3 mmol) in tetrahydrofuran (200 mL) was added dropwise to a stirred suspension of sodium hydride (60% dispersion in mineral oil, 2.2 g, 55.8 mmol) in tetrahydrofuran (50 mL) and the mixture was stirred at room temperature for 72 hours. Water (5 mL) was added and the mixture was extracted with ethyl acetate (3×400 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (80:20 increasing to 50:50), to give the title compound (1.5 g, 71%). m/z (ES+) 228 (M+1).

reactant | 1,1-dimethylethyl 4-hydroxymethyl-4-methanesulfonyloxymethyl-1-piperidinecarboxylate | 9.3 mmol, 3 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)COS(=O)(=O)C | C13H25NO6S
reactant | sodium hydride | 55.8 mmol, 2.2 g | [H-].[Na+]
reactant | Water | 5 mL | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 2-Oxa-7-azaspiro[3.5]nonane-7-carboxylate | 1.5 g, 71% | C1OCC12CCN(CC2)C(=O)OC(C)(C)C | C12H21NO3
